US09399623B2
6-Chloro-2-(3-hydroxy-propyl)-quinoline-5-carboxylic acid (4,4-Difluorocyclohexyl methyl)-amide (64)
To a solution of 6-chloro-2-(3-hydroxy-prop-1-ynyl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide (0.25 g, 0.62 mmol, 1.00 eq) in methanol (5 mL, 20 V) were added trimethylsilane (0.65 mL, 6.23 mmol, 10 eq) and followed by palladium on carbon (10% w/w) (0.07 g, 0.06 mmol, 0.10 eq) at 0 OC. The reaction mixture was stirred for 0.5 h. After the completion of the reaction as evidenced by TLC, the reaction mixture was concentrated under vacuum. The reaction mixture was diluted with ethyl acetate (20 mL) and extracted with water (20 mL) and brine solution (20 mL). The organic layer was separated and dried over Na2SO4 and concentrated under vacuum. The crude product was further purified by column chromatography to afford the title compound (0.08 g, 0.18 mmol, 29.0%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 8.82 (t, J=5.83 Hz, 1H), 7.96-8.01 (m, 2H), 7.76 (d, J=9.01 Hz, 1H), 7.55 (d, J=8.72 Hz, 1H), 4.58 (t, J=6.22 Hz, 1H), 3.46 (t, J=6.41 Hz, 2H), 3.27 (t, J=6.22 Hz, 2H), 2.95 (t, J=7.62 Hz, 2H), 2.02-2.04 (m, 2H), 1.74-1.93 (m, 7H), 1.29-1.33 (m, 2H). m/z: 397.2 [M+H]+

reactant | 6-chloro-2-(3-hydroxy-prop-1-ynyl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | 0.62 mmol, 0.25 g, 1.00 eq | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C#CCO)F | C20H19ClF2N2O2
reactant | trimethylsilane | 6.23 mmol, 0.65 mL, 10 eq | C[SiH](C)C | C3H10Si
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on carbon | 0.06 mmol, 0.07 g, 0.10 eq | [Pd] | Pd
product | 6-Chloro-2-(3-hydroxy-propyl)-quinoline-5-carboxylic acid (4,4-Difluorocyclohexyl methyl)-amide | 0.18 mmol, 0.08 g, 29.0% | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)CCCO)F | C20H23ClF2N2O2
